US08754079B2
XXXXXVII.1 4-Fluoro-2-(trans-4-methoxy-cyclohexyloxy)-1-nitro-benzene
0.6 g sodium hydride (60%) were added to a cooled solution (−7° C.) of 2.55 g 4-fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-1-nitro-benzene and iodomethane in 30 ml DMF. The mixture was allowed to warm to rt overnight, diluted with EtOAc and washed with water and brine (3×). The organic phase was dried (MgSO4), passed through a hydrophobic frit and evaporated. The residue was purified by flash column chromatography (silica gel, 100% i-hexane→7:1 i-hexane:EtOAc).

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 4-fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-1-nitro-benzene | 2.55 g | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@@H]1CC[C@H](CC1)O | C12H14FNO4
reactant | iodomethane | IC | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Fluoro-2-(trans-4-methoxy-cyclohexyloxy)-1-nitro-benzene | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@@H]1CC[C@H](CC1)OC | C13H16FNO4
